US07427635B2
To a cold solution of 2-{(2S,3S)-2-[(R)-2-(4-acetylamino-phenyl)-2-tert-butoxycarbonylamino-acetylamino]-3-phenyl-butyryl-amino}-thiazole-4-carboxylic acid methyl ester (107 mg, 0.175 mmol) in dichloromethane (6 mL), was added trifluoroacetic acid (4 mL). The reaction mixture was stirred at room temperature for 45 minutes, followed by removal of volatiles in vacuo. To the residue was added diethyl ether (10 mL) and the resulting suspension was separated by centrifugation. The solid was dissolved in ethyl acetate and washed with saturated aqueous sodium bicarbonate. The aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic layers were dried over sodium sulfate, filtered and concentrated to give crude 2-{(2S,3S)-2-[(R)-2-(4-acetylamino-phenyl)-2-amino-acetylamino]-3-phenyl-butyrylamino}-thiazole-4-carboxylic acid methyl ester which was used immediately in the following step of the synthesis.

reactant | 2-{(2S,3S)-2-[(R)-2-(4-acetylamino-phenyl)-2-tert-butoxycarbonylamino-acetylamino]-3-phenyl-butyryl-amino}-thiazole-4-carboxylic acid methyl ester | 0.175 mmol, 107 mg | COC(=O)C=1N=C(SC1)NC([C@H]([C@@H](C)C1=CC=CC=C1)NC([C@H](NC(=O)OC(C)(C)C)C1=CC=C(C=C1)NC(C)=O)=O)=O | C30H35N5O7S
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 2-{(2S,3S)-2-[(R)-2-(4-acetylamino-phenyl)-2-amino-acetylamino]-3-phenyl-butyrylamino}-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1)NC([C@H]([C@@H](C)C1=CC=CC=C1)NC([C@H](N)C1=CC=C(C=C1)NC(C)=O)=O)=O | C25H27N5O5S
